US08669361B2
Reaction of 5-chloro-1-methyl-4-nitro-1H-pyrazole and tert-butyl morpholin-2-ylmethylcarbamate gave tert-butyl (4-(1-methyl-4-nitro-1H-pyrazol-5-yl)morpholin-2-yl)methylcarbamate as a yellow oil (196 mg, 93%). 1H NMR (400 MHz, CDCl3) δ 8.04 (s, 1H), 4.92 (s br, 1H), 4.00 (dd, J=11.3, 2.9 Hz, 1H), 3.90-3.68 (m, 5H), 3.57 (td, J=11.6, 3.2 Hz, 1H), 3.38-3.24 (m, 2H), 3.15 (ddd, J=14.1, 7.1, 5.1 Hz, 1H), 2.86 (d, J=11.8 Hz, 1H), 2.77 (d, J=11.8 Hz, 1H), 1.45 (s, 9H)

reactant | 5-chloro-1-methyl-4-nitro-1H-pyrazole | ClC1=C(C=NN1C)[N+](=O)[O-] | C4H4ClN3O2
reactant | tert-butyl morpholin-2-ylmethylcarbamate | N1CC(OCC1)CNC(OC(C)(C)C)=O | C10H20N2O3
product | tert-butyl (4-(1-methyl-4-nitro-1H-pyrazol-5-yl)morpholin-2-yl)methylcarbamate | 196 mg, 93% | CN1N=CC(=C1N1CC(OCC1)CNC(OC(C)(C)C)=O)[N+](=O)[O-] | C14H23N5O5
